US07723286B2
c) 2-[2-(2-methoxyethoxy)ethoxy]ethyl 4-vinylbenzoate
As described in Example 6a) the compound was obtained by reacting together DCC (3.1 g, 14.9 mmol), 4-vinylbenzoic acid (2.0 g, 13.5 mmol), DMAP (1.3 g, 10.8 mmol) and 2-[2-(2-methoxyethoxy)ethoxy]ethanol (3.3 g, 20.3 mmol) for 2 days. Flash-chromatography over SiO2 (heptane/ether gradient) and drying under high vacuum gave 3.1 g of a slightly yellow oil (yield: 78%).

reactant | DCC | 14.9 mmol, 3.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-vinylbenzoic acid | 13.5 mmol, 2.0 g | C(=C)C1=CC=C(C(=O)O)C=C1 | C9H8O2
reactant | 2-[2-(2-methoxyethoxy)ethoxy]ethanol | 20.3 mmol, 3.3 g | COCCOCCOCCO | C7H16O4
catalyst | DMAP | 10.8 mmol, 1.3 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-[2-(2-methoxyethoxy)ethoxy]ethyl 4-vinylbenzoate | yield: 78% | C(=C)C1=CC=C(C(=O)OCCOCCOCCOC)C=C1 | C16H22O5
